US08802674B2
To a 250 mL round bottom flask equipped with a stir bar was added 1 g 5-chloro-2,4-dichloro-pyrimidine, and 15 mL of diethyl ether. The mixture was cooled to 0° C. in an ice bath and then 1 equivalent of sodium methoxide in methanol (prepared from reacting 120 mg of sodium with 4 mL of methanol at room temperature) was slowly added. The reaction was stirred over night at room temperature and checked by LCMS. The white precipitate was filtered and the solid washed with cold methanol. After drying, 0.98 g of pure 2,5-dichloro-4-methoxypyrimidine was obtained and this material was used without further purification.

reactant | 5-chloro-2,4-dichloro-pyrimidine | 1 g | ClC=1C(=NC(=NC1)Cl)Cl | C4HCl3N2
reactant | diethyl ether | 15 mL | C(C)OCC | C4H10O
reactant | sodium methoxide | 1 equivalent | C[O-].[Na+]
solvent | methanol | 4 mL, 120 mg | CO | CH4O
product | 2,5-dichloro-4-methoxypyrimidine | 0.98 g | ClC1=NC=C(C(=N1)OC)Cl | C5H4Cl2N2O
